US09078909B2
A mixture of 4-(2-chloroacetamido)benzamide (0.57 g; 2.68 mmol), tert-butyl piperidin-4-ylcarbamate (0.55 g; 2.68 mmol) and DBU (0.40 mL; 2.68 mmol) in ACN (30 mL) is stirred at r.t. over night. Then the solvent is evaporated and the residue is dissolved in DCM. The solution is washed once with water, then with brine. The organic layer is dried and the solvent is evaporated. The residue is suspended in ether, filtered off with suction and dried to yield tert-butyl 1-(2-(4-carbamoylphenylamino)-2-oxoethyl)piperidin-4-ylcarbamate.

reactant | 4-(2-chloroacetamido)benzamide | 2.68 mmol, 0.57 g | ClCC(=O)NC1=CC=C(C(=O)N)C=C1 | C9H9ClN2O2
reactant | tert-butyl piperidin-4-ylcarbamate | 2.68 mmol, 0.55 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | DBU | 2.68 mmol, 0.40 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ACN | 30 mL | C(C)#N | C2H3N
product | tert-butyl 1-(2-(4-carbamoylphenylamino)-2-oxoethyl)piperidin-4-ylcarbamate | C(N)(=O)C1=CC=C(C=C1)NC(CN1CCC(CC1)NC(OC(C)(C)C)=O)=O | C19H28N4O4
